US08278442B2
Preparation 58: cis-4-Propylcyclohexylamine
To a solution of cis-1-benzylamino-4-propylcyclohexane (Preparation 52) (1.59 g, 6.87 mmol) in EtOH (90 mL) was added cyclohexene (10 mL) and 10% palladium-on-carbon (550 mg). The mixture was refluxed for 12 h. After cooling the mixture was filtered through celite. Solvent was removed in vacuo to give the title compound: δH (CD3OD): 0.95 (3H, t), 1.28-1.74 (13H, m), 2.95 (1H, m).

reactant | cis-1-benzylamino-4-propylcyclohexane | 6.87 mmol, 1.59 g | C(C1=CC=CC=C1)N[C@@H]1CC[C@@H](CC1)CCC | C16H25N
reactant | cyclohexene | 10 mL | C1=CCCCC1 | C6H10
solvent | EtOH | 90 mL | CCO | C2H6O
catalyst | palladium-on-carbon | 550 mg | [Pd] | Pd
product | cis-4-Propylcyclohexylamine | C(CC)[C@H]1CC[C@H](CC1)N | C9H19N
